US07531553B2
(4-Chloro-3-trifluoromethyl-phenyl)-[5-(pyridin-4-yloxy)-1H-benzimidazol-2-yl]-amine
To a solution of 4-(pyridin-4-yloxy)-benzene-1,2-diamine (0.273 g, 1.36 mmol) in 20 mL CH3CN was added 1-chloro-4-isothiocyanato-2-trifluoromethyl-benzene (prepared similarly to the procedure described in Preparation III, 0.322 g, 1.36 mmol). The reaction was stirred 18 h at RT. The reaction was diluted with 25 mL CH3CN, and then EDC (0.39 g, 2.03 mmol) was added. The reaction was heated at 80° C. for 2.5 h. The reaction was cooled to RT and concentrated in vacuo. The crude mix was dissolved into EtOAc and water. The layers were separated, and the organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography using a hexane-EtOAc gradient. The partially pure compound was triturated with CH2Cl2 to yield the title compound. MS (MH+)=405.1; Calc'd 404.78 for C19H12ClF3N4O.

reactant | 4-(pyridin-4-yloxy)-benzene-1,2-diamine | 1.36 mmol, 0.273 g | N1=CC=C(C=C1)OC=1C=C(C(=CC1)N)N | C11H11N3O
reactant | 1-chloro-4-isothiocyanato-2-trifluoromethyl-benzene | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
reactant | EDC | 2.03 mmol, 0.39 g
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | (4-Chloro-3-trifluoromethyl-phenyl)-[5-(pyridin-4-yloxy)-1H-benzimidazol-2-yl]-amine | ClC1=C(C=C(C=C1)NC1=NC2=C(N1)C=CC(=C2)OC2=CC=NC=C2)C(F)(F)F | C19H12ClF3N4O
